US07244278B2
Step A: 3,4-Dimethyl-2(3H)thiazolone-(1-methylethylidene)hydrazone
21 g (200 mmol) of 4-methyl-3-thiosemicarbazide in 1000 mL of acetone was heated at reflux for 2 hours. To this solution was then added dropwise 20.4 g (220 mmol) of chloroacetone. The reaction mixture was allowed to reflux for 7 hours and was then concentrated. The resulting crude product was recrystallized from acetone. This gave 23 g of an orange-colored powder (63% of the theoretical).

reactant | 4-methyl-3-thiosemicarbazide | 200 mmol, 21 g | CNC(NN)=S | C2H7N3S
reactant | chloroacetone | 220 mmol, 20.4 g | ClCC(C)=O | C3H5ClO
reactant | acetone | 1000 mL | CC(=O)C | C3H6O
product | 3,4-Dimethyl-2(3H)thiazolone-(1-methylethylidene)hydrazone | CC(C)=NN=C1SC=C(N1C)C | C8H13N3S
